US08039503B2
E44.2. Synthesis of 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-pyran]-5,6-dione (Compound 262)
The crude 4-(mercaptomethyl)tetrahydro-2H-pyran-4-ol was then reacted with naphthalene-1,2-dione as outlined in procedure F [both step (i) and (ii)] to afford crude 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-pyran]-5,6-dione. The crude 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-pyran]-5,6-dione was purified by flash column chromatography (SiO2, 100% dichloromethane) to afford the product as a purple solid. M.p.=195-197° C.; 400 MHz 1H NMR (CDCl3) δ: 8.06 (dd, J=7.6 1.0 Hz, 1H), 7.79 (dd, J=7.6 0.8 Hz, 1H), 7.67 (td, J=8.0 1.6 Hz 1H), 7.50 (td, J=8.0 1.2 Hz, 1H), 3.96-3.83 (m, 4H), 2.97 (s, 2H), 2.10-2.05 (m, 2H), 1.95-1.87 (m, 2H); LCMS: 303 [M+H].

reactant | 4-(mercaptomethyl)tetrahydro-2H-pyran-4-ol | SCC1(CCOCC1)O | C6H12O2S
reactant | naphthalene-1,2-dione | C1(C(C=CC2=CC=CC=C12)=O)=O | C10H6O2
product | 2′,3′,5′,6′-tetrahydrospiro[naphtho[1,2-b][1,4]oxathiine-2,4′-pyran]-5,6-dione | O1CCC2(CC1)CSC1=C(O2)C2=CC=CC=C2C(C1=O)=O | C16H14O4S
